* C:\Users\MB\Documents\GitHub\GuitarPedal\SimulationDesign.asc
* Generated by LTspice 26.0.2 for Windows.
V1 VCC 0 9 Rser=0
R1 VCC N003 100k
R2 N003 0 100k
R3 IN+ N003 1Meg
C1 IN+ N002 470n
R4 N001 N002 10k
V2 N001 0 SINE(0 30m 440) AC 30m
C2 FeedBack IN- 100p
D1 FeedBack IN- 1N4148
D2 IN- FeedBack 1N4148
R5 IN- N006 1k
R6 FeedBack IN- 500k
C3 PreFilter FeedBack 1µ
C4 N006 0 220n
R7 N004 PreFilter 5k
R8 N005 N004 10
C5 N004 0 22n
R9 N005 Output 50k
R10 Output 0 50k
X§U1 IN+ IN- VCC 0 FeedBack LT1001 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\Users\MB\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.05
* .ac dec 10 20 20000
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\MB\AppData\Local\LTspice\lib\sym\OpAmps\OP07.asy)
.lib LTC.lib
.backanno
.end
